US07524951B2
Imidazole (0.15 g) and 0.36 ml of triethylsilylchloride were added to a solution of 0.32 g of (3S,4R)-3-[(1R)-1-hydroxyethyl]-4-[(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonyl imidazo[5,1-b]thiazol-2-yl]-2-oxoethyl]azetidin-2-one in 3.2 ml of dimethylformamide under ice cooling, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with 80 ml of ethyl acetate, and the diluted reaction mixture was washed three times with 20 ml of a 10% aqueous sodium chloride solution and was then washed with an a saturated aqueous sodium chloride solution and was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, the resultant solid was suspended in 4 ml of a hexane:ethyl acetate=1:1 solution and was collected by filtration to give 0.33 g of (3S,4R)-3-[(1R)-1-(triethylsilyloxy)ethyl]-4-[(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl]azetidin-2-one.

reactant | Imidazole | 0.15 g | N1C=NC=C1 | C3H4N2
reactant | triethylsilylchloride | 0.36 ml | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | (3S,4R)-3-[(1R)-1-hydroxyethyl]-4-[(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonyl imidazo[5,1-b]thiazol-2-yl]-2-oxoethyl]azetidin-2-one | 0.32 g | O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)C1=CN2C(S1)=C(N=C2)C(=O)C=2C=NC=CC2)C)=O | C19H18N4O4S
solvent | dimethylformamide | 3.2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | (3S,4R)-3-[(1R)-1-(triethylsilyloxy)ethyl]-4-[(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl]azetidin-2-one | 0.33 g | C(C)[Si](O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)C1=CN2C(S1)=C(N=C2)C(=O)C=2C=NC=CC2)C)=O)(CC)CC | C25H32N4O4SSi
